US08207347B2
2a 5-Bromo-2,4-dimethyl-6-oxo-1-phenyl-1,6-dihydro-pyridine-3-carboxylic acid [(S)-cyclobutyl-(3-fluoro-phenyl)-methyl]-amide.
A mixture of 2,4-dimethyl-6-oxo-1-phenyl-1,6-dihydro-pyridine-3-carboxylic acid [(S)-cyclobutyl-(3-fluoro-phenyl)-methyl]-amide (11.8 mg, 0.0292 mmol) and N-bromosuccinimide (5.7 mg, 0.032 mmol) in N,N-dimethylformamide (0.2 mL) was shaken at 40° C. for 30 min. It was quenched and shaken with diluted aq. HCl (ca 0.1 M, 4 ml) then filtered to give the title compound as colourless solid (9.0 mg, 64% yield). LC-MS (m/z) 483.2 & 485.3 (MH+); tR=1.54. 1H NMR (T=+70° C., 500 MHz, DMSO-d6, DMSO-d5=2.50 ppm): 1.75 (overlapping s, 3H, Me), 1.72-1.93 (overlapping m, 5H), 2.07 (br. m, 1H), 2.2 (s, 3H, Me), 2.67 (m, 1H, CH of Cb), 4.93 (t, J=9.2 Hz, CH—N), 7.02 (dt, J(t)=8.3 Hz, J(d)=1.9 Hz, 1H), 7.13 (br. d, J=10.1 Hz, 1H), 7.17 (d, J=7.5 Hz, 1H), 7.22 (br. m, 2H, Ph), 7.35 (q (unres. Dt), J(t)=7.6 Hz, J(d)=6.6 Hz, 1H), 7.49 (t, J=7.3 Hz, 1H, para-H of Ph), 7.55 (t, J=6.8 Hz, 2H, two meta-H of Ph), 8.68 (d, J=8.3 Hz, 1H, NH).

reactant | 2,4-dimethyl-6-oxo-1-phenyl-1,6-dihydro-pyridine-3-carboxylic acid [(S)-cyclobutyl-(3-fluoro-phenyl)-methyl]-amide | 0.0292 mmol, 11.8 mg | C1(CCC1)[C@@H](C1=CC(=CC=C1)F)NC(=O)C1=C(N(C(C=C1C)=O)C1=CC=CC=C1)C | C25H25FN2O2
reactant | N-bromosuccinimide | 0.032 mmol, 5.7 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | N,N-dimethylformamide | 0.2 mL | CN(C=O)C | C3H7NO
product | 5-Bromo-2,4-dimethyl-6-oxo-1-phenyl-1,6-dihydro-pyridine-3-carboxylic acid [(S)-cyclobutyl-(3-fluoro-phenyl)-methyl]-amide | 9.0 mg, 64% yield | C1(CCC1)[C@@H](C1=CC(=CC=C1)F)NC(=O)C1=C(N(C(C(=C1C)Br)=O)C1=CC=CC=C1)C | C25H24BrFN2O2
